US06492522B1
2.1 Preparation of diethyl (4-piperidylmethylene)malonate [XXIXb]
A solution of diethyl (4-pyridylmethylene)malonate [XXVIIIb] (97.6 g) in absolute ethanol (1 L) was hydrogenated in the presence of acetic acid glacial (35.5 g) and 10% Palladium on activated carbon catalyst (9.7 g) at 60° C. and 200 psi for 20 hours. The catalyst was filtered off and the resulting solution of the title compound in the form of acetic acid salt was used directly in the next step.

reactant | diethyl (4-pyridylmethylene)malonate | 97.6 g | N1=CC=C(C=C1)C=C(C(=O)OCC)C(=O)OCC | C13H15NO4
reactant | acetic acid glacial | 35.5 g | CC(=O)[O-]
solvent | ethanol | 1 L | C(C)O | C2H6O
catalyst | Palladium on activated carbon | 9.7 g | [Pd] | Pd
product | diethyl (4-piperidylmethylene)malonate | N1CCC(CC1)C=C(C(=O)OCC)C(=O)OCC | C13H21NO4
